US08614206B2
A solution of 5-chloro-1-(2,2-difluoroethyl)-4-nitro-1H-pyrazole (438 mg, 2.07 mmol), (R)—N-(azepan-4-yl)-2,2,2-trifluoroacetamide (438 mg, 2.07 mmol) and DIPEA (1 mL) in EtOH (4 mL) was heated at 155° C. in the microwave for 5 hr. The solvent was removed under reduced pressure and the residue purified by silica gel column chromatography (0-100% EtOAc/isohexane) to give (R)—N-(1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide as a pale orange gum (518 mg). A portion of this gum (39 mg, 0.10 mmol) in dry THF (2 mL) was treated with sodium hydride (60% in mineral oil, 5 mg, 0.12 mmol). After stirring at room temperature for 10 min, iodomethane (0.01 mL, 0.20 mmol) was added and the reaction mixture was stirred at room temperature for 2 hr. The reaction was repeated on the remaining (R)—N-(1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide. Water (50 mL) was added carefully and the mixture was extracted with EtOAc (2×100 mL). The organic layers were combined, dried over MgSO4 and the solvent was removed under reduced pressure to give (R)—N-(1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoro-N-methylacetamide as a pale yellow gum (518 mg). This gum (514 mg, 1.29 mmol) was dissolved in MeOH (20 mL) and treated with ammonium formate (325 mg, 6.15 mmol) and 10% palladium on carbon (50 mg). The mixture was heated at 85° C. for 2 hr. After cooling to room temperature the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was partitioned between DCM (50 mL) and water (30 mL) and the aqueous layer was extracted with DCM (2×50 mL). The combined organic layers were passed through a phase separation cartridge and the solvent was removed under reduced pressure to afford (R)—N-(1-(4-amino-1-(2,2-difluoroethyl)-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoro-N-methylacetamide as a pale yellow gum (348 mg, 46% over three steps). 1H NMR (400 MHz, CDCl3) δ 7.13 (s, 1H), 6.19 (tq, J=55.4, 4.4 Hz, 1H), 4.65-4.15 (m, 3H), 3.40-3.10 (m, 4H), 3.10 and 2.97 (2s, 3H), 2.80 (br s, 2H), 2.10-1.70 (m, 6H).

reactant | sodium hydride | 0.12 mmol, 5 mg | [H-].[Na+]
reactant | iodomethane | 0.20 mmol, 0.01 mL | IC | CH3I
reactant | (R)—N-(1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide | FC(CN1N=CC(=C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)[N+](=O)[O-])F | C13H16F5N5O3
reactant | Water | 50 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (R)—N-(1-(1-(2,2-difluoroethyl)-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoro-N-methylacetamide | 518 mg | FC(CN1N=CC(=C1N1CC[C@@H](CCC1)N(C(C(F)(F)F)=O)C)[N+](=O)[O-])F | C14H18F5N5O3
